Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fatigue, shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M w/ history of HTN, HLD, and LVH (echo ___, neg stress 
echo ___ who presents with several days of fatigue, 
orthostatic lightheadedness, palpitations, and new DOE. 

In ___ of this year, he developed a rash of the left shoulder 
and neck and was diagnosed with shingles. Took 1 week course of 
Valtrex. Since then, he has had persistent fatigue, which has 
prevented him from going to the gym regularly as he did before 
the shingles. 

___ days ago, he began to notice lightheadedness with standing, 
lasting about 10 sec each time. He took his BP while feeling 
lightheaded on the evening of ___ and found it to be 100/50 
with pulse of 39. The next morning, BP improved to 120s/50s, but 
pulse was still in the ___. He endorses DOE, mild nausea, 
decreased appetite, fatigue, and ___ muscle aches during this 
same time frame. Denies CP, orthopnea, or PND. He denies any 
recent rash other than the shingles. Though he lives in a wooded 
area, he denies recent tick exposure and wears jeans when he 
works outside.

Saw PCP ___ ___ for these symptoms and was told to go to the ED. 
Found to be bradycardic to 36-40, normotensive, and 
non-orthostatic. EKG showed "sinus bradycardia with high grade 
AV block". Pt reportedly refused ambulance transport because he 
would have been taken to ___. His wife drove him to the ___ 
ED. 

Of note, the patient had a previous episode of lightheadedness 
and hypotension in ___, in which he slumped against the 
wall, appeared ashen (per his wife's description), and was 
briefly syncopal. BP taken at that time was ___.

 
In the ED initial vitals were: T 98.2, HR 43-48, BP 
132-149/56-69, RR ___, O2 sat 96-100% on RA.  
EKG: Apparent 2:1 second degree heart block with prolonged PR, 
with P waves hidden in the T waves. Concern for isoarrhythmic 
dissociation. Continued cardiac monitoring in the ED revealed 
confirmed heart block.
Labs/studies notable for: Troponins x1 negative. WBC 13.3 with 
neutrophil predominance. CXR showed "mild central pulmonary 
vascular engorgement without overt pulmonary edema".
Patient was given: Handgrip maneuver in ED by fellow had no 
effect. Light carotid massage caused slowing of P waves and was 
quickly stopped due to pt's reports of lightheadedness.
 
Vitals on transfer:  
On arrival to the CCU: BP 111/55, P 41, RR 17, O2 sat 94% on RA.

 
Past Medical History:
1. CARDIAC RISK FACTORS   
- Hypertension  
- Dyslipidemia  
2. CARDIAC HISTORY  
- No hx of prior EKG abnormalities or arrhythmias.
- Exercise stress echo and EKG ___: Non-specific EKG changes 
in the absence of anginal type symptoms at a high cardiac demand 
and excellent functional capacity. 
- Echo ___: moderate symmetric left ventricular hypertrophy  

 
Social History:
___
Family History:
No family history of arrhythmia or sudden cardiac death. Father 
had angina pectoris, lived until his ___. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================  
VS: BP 111/55, P 41, RR 17, O2 sat 94% on RA
GENERAL: Well developed, well nourished in NAD. Oriented x3. 
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.  
NECK: Supple. No LAD. No JVD appreciated.  
CARDIAC: Bradycardic, S1 and S2 appreciated, with occasional 
isolated S1. No murmurs, rubs, or gallops.
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. Faint bibasilar crackles 
posteriorly.
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: Visible scarring of left superior trapezius region.
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE PHYSICAL EXAM
=======================
General: Well nourished, well-developed. Sitting comfortably in 
chair at bedside. No acute distress.
HEENT: Head normocephalic, atraumatic. No scleral icterus. Pink 
conjunctiva. 
Cardiac: Regular rate. No murmurs.
Pulm: Lungs clear to auscultation bilaterally. No wheezes, 
rhonchi, or rales.
Abdominal:  Abdomen soft, non-distended, and non-tender to light 
or deep palpation. No hepatomegaly or splenomegaly
GU: no foley.
Extremities: Warm and well-perfused. Distal pulses present and 
symmetrical. No ___ edema.
 
Pertinent Results:
ADMISSION LABS
==============
___ 02:28AM BLOOD WBC-13.3*# RBC-4.26* Hgb-13.0*# Hct-38.1* 
MCV-89 MCH-30.5 MCHC-34.1 RDW-13.2 RDWSD-42.9 Plt ___
___ 02:28AM BLOOD Neuts-74.0* Lymphs-15.2* Monos-8.1 
Eos-1.1 Baso-0.6 Im ___ AbsNeut-9.86*# AbsLymp-2.03 
AbsMono-1.08* AbsEos-0.14 AbsBaso-0.08
___ 09:13PM BLOOD ___ PTT-27.7 ___
___ 02:28AM BLOOD Glucose-142* UreaN-34* Creat-1.3* Na-135 
K-4.3 Cl-103 HCO3-19* AnGap-17
___ 02:28AM BLOOD ALT-38 AST-26 AlkPhos-197* TotBili-0.7
___ 02:28AM BLOOD Lipase-28
___ 02:28AM BLOOD cTropnT-<0.01
___ 02:28AM BLOOD Albumin-3.2* Calcium-8.9 Phos-4.0 Mg-2.0

INTERIM LABS
============
___ 05:00AM BLOOD CK-MB-<1 cTropnT-<0.01 proBNP-4859*
___ 05:00AM BLOOD TSH-2.7
___ 05:00AM BLOOD T4-7.6

DISCHARGE LABS
==============
___ 07:15AM BLOOD WBC-8.9 RBC-4.55* Hgb-13.7 Hct-41.5 
MCV-91 MCH-30.1 MCHC-33.0 RDW-13.1 RDWSD-43.1 Plt ___
___ 07:15AM BLOOD Plt ___
___ 07:15AM BLOOD Glucose-98 UreaN-21* Creat-1.0 Na-139 
K-4.8 Cl-104 HCO3-23 AnGap-17
___ 07:15AM BLOOD Calcium-9.6 Phos-4.6* Mg-2.3

IMAGING/STUDIES
===============
CHEST (PORTABLE AP) (___):
FINDINGS:  
There is mild central pulmonary vascular engorgement without 
overt pulmonary edema.  No focal consolidation is seen.  There 
is no pleural effusion or pneumothorax.  Cardiac silhouette size 
is mildly enlarged, likely accentuated by AP technique.  
Mediastinum is unremarkable.  The aorta is somewhat 
tortuous. 

TTE Echo ___
The left atrium is elongated. The right atrium is moderately 
dilated. No atrial septal defect is seen by 2D or color Doppler. 
There is mild symmetric left ventricular hypertrophy with normal 
cavity size and regional/global systolic function (LVEF>55%). 
Right ventricular chamber size and free wall motion are normal. 
The aortic valve leaflets (3) are mildly thickened. There is a 
minimally increased gradient consistent with minimal aortic 
valve stenosis. Trace aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. Mild to moderate (___) 
mitral regurgitation is seen. The tricuspid valve leaflets are 
mildly thickened. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion.  Compared with 
the prior study (images reviewed) of ___, the degree of 
MR seen has increased.  
  
IMPRESSION:  
Mild central pulmonary vascular engorgement without overt 
pulmonary edema.  Mildly enlarged cardiac silhouette size, 
likely accentuated by AP technique. 

Chest Xray ___
In comparison with study ___, the cardiac silhouette 
remains mildly 
enlarged with continued elevation of pulmonary venous pressure. 
No acute focal 
pneumonia. 

MICROBIOLOGY
=============
___ 9:56 pm Blood (LYME)

   Lyme IgG (Preliminary): 
      Sent to ___ for Lyme Western Blot testing. 

   Lyme IgM (Preliminary): 
      Sent to ___ for Lyme Western Blot testing. 
 
Brief Hospital Course:
___ y M with hx of HTN, HLD, and LVH admitted from PCP 
appointment for complete heart block in the setting of new onset 
fatigue, lightheadedness, palpitations, DOE, and bradycardia. 

Acute medical issues:

# COMPLETE HEART BLOCK. 
The patient was admitted for symptomatic bradycardia without 
syncope, and was found to be in complete heart block. He did not 
have a prior history of cardiac conduction abnormalities. The 
likely etiology is Lyme disease, as Lyme antibodies returned 
positive. Other causes that were considered were Herpes Zoster, 
infiltrative process, cardiomyopathy, myocarditis, and thyroid 
disorder. TSH and T4 were within normal limits. EP was consulted 
with plan for pacemaker placement pending Lyme antibodies. 
However, Lyme antibodies returned positive, so no pacemaker was 
placed, and patient was started on ceftriaxone 2g IV q24h for 
planned 3 week course (end ___. TTE was performed and 
showed ejection fraction >55%. 

Chronic issues pertinent to admission:

# HTN: Lisinopril was held in the setting of soft blood 
pressures but resumed over hospital course.
# HLD: Home Atorvastatin was continued.

 TRANSITIONAL ISSUES  
===========================  
- Patient noted to have desaturations to mid ___ at night 
(improved over hospital course with gentle diuresis) but may 
consider outpatient sleep study for OSA
- Preliminary lyme titers positive so confirmatory western blot 
sent to ___ Clinic; please follow these up although would not 
change management. 
- Please complete total 3 week course of ceftriaxone, ending 
___.
- Recommend f/u with EP 1 month after d/c (appointment pending 
at time of discharge)

# CODE: FULL CODE 
# CONTACT/HCP: ___ (wife) - cell phone: 
___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM HLD 
2. Lisinopril 10 mg PO DAILY HTN 
3. Aspirin 81 mg PO DAILY 
4. Cetirizine 10 mg PO DAILY seasonal allergies 

 
Discharge Medications:
1.  CefTRIAXone 2 gm IV Q24H Duration: 18 Days 
RX *ceftriaxone in dextrose,iso-os 2 gram/50 mL 2 g 
intravenously daily Disp #*18 Intravenous Bag Refills:*0 
2.  Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush 
RX *sodium chloride 0.9 % 0.9 % 10 mL IV twice a day Disp #*36 
Intravenous Bag Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 20 mg PO QPM HLD  
5.  Cetirizine 10 mg PO DAILY seasonal allergies  
6.  Lisinopril 10 mg PO DAILY HTN  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
PRIMARY DIAGNOSIS:
Complete Heart Block

SECONDARY DIAGNOSIS:
Lyme Carditis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Thank you for allowing us to participate in your care here at 
___.

Why was I taken to the hospital?
You were admitted for a slow heart rate called heart block. You 
were monitored in the intensive care unit. The cause of your 
slow heart rate was mostly likely Lyme disease and therefore 
your heart rate should improve with treatment of your Lyme 
disease. For this reason, you did not have a pacemaker placed. 

What happened while I was at the hospital?
You were given antibiotics to treat Lyme disease and we 
performed tests to monitor your heart function and electrical 
activity.

What do I do when I leave the hospital?
-Please take your antibiotics and medications as prescribed. You 
will need antibiotics for three weeks to treat Lyme, ending 
___.
-Please make sure you see electrophysiology (EP) for follow up 
in 1 month (approx. ___ - see information below.  
-We have arranged infectious disease follow up for you but you 
may return to ___ without ID follow up if this is your 
preference.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___